US05703096
34(a) 5-{4-[2-(1-{2-[N-(4-Methylphenylsulfonyl)-N-methylamino]pyridin-5-yl}ethylideneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione
Following a procedure similar to that described in Example 1(a), but using 1.22 g of 2-(1-{2-[N-(4-methylphenylsulfonyl)-N-methylamino]pyridin-5-yl}ethylideneaminooxy) ethanol (prepared as described in Preparation 34), 1.52 g of 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione, 0.97 g of triphenylphosphine and 0.63 g of diethyl azodicarboxylate, 2.33 g of the title compound were obtained as a foam-like solid.

reactant | 2-(1-{2-[N-(4-methylphenylsulfonyl)-N-methylamino]pyridin-5-yl}ethylideneaminooxy) ethanol | 1.22 g | CC1=CC=C(C=C1)S(=O)(=O)N(C)C1=NC=C(C=C1)C(C)=NOCCO | C17H21N3O4S
reactant | 5-(4-hydroxybenzyl)-3-tritylthiazolidine-2,4-dione | 1.52 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | triphenylphosphine | 0.97 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.63 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 5-{4-[2-(1-{2-[N-(4-Methylphenylsulfonyl)-N-methylamino]pyridin-5-yl}ethylideneaminooxy)ethoxy]-benzyl}-3-tritylthiazolidine-2,4-dione | 2.33 g | CC1=CC=C(C=C1)S(=O)(=O)N(C)C1=NC=C(C=C1)C(C)=NOCCOC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C46H42N4O6S2
